data/oMe_Silver.jsonl
{"reaction_id": "NR-337_1-c2ccccc2_2-C1CCCCC1_3-C(F)(F)F_4-Cl_5-F","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(c2ccccc2)c(C1CCCCC1)c(C(F)(F)F)c(Cl)c1F","N#C[Cu]"],"products_smiles": ["c1(C#N)c(c2ccccc2)c(C1CCCCC1)c(C(F)(F)F)c(Cl)c1F"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(c2ccccc2)c(C1CCCCC1)c(C(F)(F)F)c(Cl)c1F","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(c2ccccc2)c(C1CCCCC1)c(C(F)(F)F)c(Cl)c1F","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
{"reaction_id": "NR-207_1-C1CCCCC1_2-C(C)(C)C_3-c1ccc(F)cc1_4-CC(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(C1CCCCC1)(C(C)(C)C)","C(c1ccc(F)cc1)(CC(C)C)O"],"products_smiles": ["OC(C1CCCCC1)(C(C)(C)C).C(c1ccc(F)cc1)(=O)CC(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccc(F)cc1)(CC(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(CC(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(c1ccc(F)cc1)(CC(C)C)[O][Al-](OC(C)C)([O+]=C(C1CCCCC1)(C(C)(C)C))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C1CCCCC1)(C(C)(C)C).C(c1ccc(F)cc1)(=O)CC(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-222_1-C(C)(C)C_2-C1CCCCC1_3-C_4-C#CC","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(C(C)(C)C)(C(O)(C(C)(C)C)C(C1CCCCC1)(C)C#CC)C(C1CCCCC1)(C)C#CC"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](C(C)(C)C)O[Mg]O[CH]C(C(C)(C)C)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(C(C(C)(C)C)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
